US06150373
A solution of 4.5 g (6.8 mmol) 5-((2-bromoanilino)methyl)-4-[3-(tert-butyldiphenylsilyloxymethyl)anilino]-2-methylthiopyrimidine and 1.9 ml (13.6 mmol) of triethylamine in 50 ml of toluene was added dropwise to a solution of 7 ml of a 20% solution of phosgene in toluene (13.6 mmol) in a further 50 ml of toluene. The mixture was heated at reflux for 5 hours and the cooled. 50 ml of ethyl acetate and 60 ml of saturated aqueous sodium bicarbonate were added and the mixture separated. The organic phase was dried over magnesium sulfate, filtered and evaporated to afford 4.7 g (100%) of 3-(2-bromophenyl)-1-[3-(tert-butyldiphenylsilyloxymethyl)phenyl]-3,4-dihydro-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one as a colorless oil. [Mass spectrum (ESI) MH+ =696].

reactant | 5-((2-bromoanilino)methyl)-4-[3-(tert-butyldiphenylsilyloxymethyl)anilino]-2-methylthiopyrimidine | 6.8 mmol, 4.5 g | BrC1=C(NCC=2C(=NC(=NC2)SC)NC2=CC(=CC=C2)CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C=CC=C1 | C35H37BrN4OSSi
reactant | triethylamine | 13.6 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | sodium bicarbonate | 60 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 13.6 mmol | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-bromophenyl)-1-[3-(tert-butyldiphenylsilyloxymethyl)phenyl]-3,4-dihydro-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one | 4.7 g, 100% | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)SC)C1=CC(=CC=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C36H35BrN4O2SSi
